Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Confusion and headaches x 3 weeks
 
Major Surgical or Invasive Procedure:
right lung biopsy CT guided ___

 
History of Present Illness:
The patient is a ___ year old male with h/o tobacco use who 
presents with tobacco s/p neck surgery who presents with 
headache and confusion x 3 weeks. He presented to an OSH where 
his head CT demonstrated:
" Multiple prominent areas of parenchymal hypodensity involving 
the gray and white matter in the right frontoparietal right 
frontal, right temporal and left frontal regions, suggesting 
vasogenic edema. Superimposed subacute infarctions cannot be 
excluded. 2: There is also suggestion of possible hyperdense 
mass lesion in the right temporoparietal region, worrisome for 
neoplasm"
Upon presentation to the ED:
VS: 3 |98.5 |42 |126/68|18 |98% RA|
He was seen by neurosurgery. He was given: 
Diazepam 5 mg|PO Acetaminophen 1000 mg| OxyCODONE (Immediate 
Release) 20 mg|
IV LevETIRAcetam (1000 mg ordered)|IV Dexamethasone 4 mg|
Upon arrival to the floor he has a ___ headache which is c/w 
the headache that he has been having for 3weeks. He has poor 
vision at baseline and this is unchanged.  He has chronic back 
and neck pain.  His headache, abdominal pain and LLE pain are 
new and have been present for a month. He has been having 
intermittent diarrhea.  He has not has blood in his stool. He 
has a chronic cough. He had a brief episode of chest pain that 
resolved with rest but he cannot remember what he was doing. + 
diaphoresis associated with this but no nausea. He has been 
having increasing confusion in that time as well. His cough is 
intermittently productive. He got lost driving a ___ in 
a city that he has lived all of his life which prompted his wife 
to bring him to the emergency room today. He has also had 
personality changes. He has had RLQ pain with a bulge in his 
groin which "pops out" when he coughs. + 20 lb weight loss over 
the past year. 
All other ROS negative except as above.

 
Past Medical History:
- lung nodules with benign bronchial washings
- hernia
- ? myofascial pain syndrome with shoulder and back pain, seen 
in
pain clinic
- L hand numbness, reportedly told this is due to his neck. Did
have an injury to his head and neck ___ when he fell down a
flight of stairs while the lights were out during a snow storm. 
S/p neck fusion surgery with chronic pain for which he takes 
oxycodone daily. 
- HLD
- h/o smoking

COPD
 
Social History:
___
Family History:
His father died of lung cancer at age ___. His dad was also a 
smoker. His mother is in her ___ and is in good health. His 
grandmother had bone cancer and died in her ___. 
 
Physical Exam:
Vitals: 98.3 PO 100 / 51 52 18 96 Ra 
CONS: He is holding his head in his hands and appears very 
uncomfortable. 
HEENT: ncat anicteric MMM    
CV: s1s2 rr no m/r/g - very distant heart sounds  
RESP: RLL crackles
GI: +bs, soft, NT, ND, no guarding or rebound  
GU: R inguinal tenderness with a reducible bulge present
Normal external genitalia
MSK:no c/c/e 2+pulses  
SKIN: Multiple tatooes
NEURO: face symmetric speech fluent  
___ strength in b/l upper and lower extremities, no dysmetria
PSYCH: calm, cooperative  
LAD: No cervical LAD

d/c exam: 

Vitals: 98.2 96/56 64 18 99 

Gen: Alert and oriented X 3. Pleasant and appropriate
HEENT: anicteric, MMM, PERRLA  
CV: rrr no m/r/g   
RESP: CTA, biopsy site at right chest wall c/d/i  
GI: +bs, soft, NT, ND, no guarding or rebound  
GU: reducible right inguinal hernia. non tender. 
Ext: no edema, no signs of DVT's
SKIN: Multiple tatoos  
NEURO: no facial droop, normal gross power and sensation.
 
Pertinent Results:
___ 06:57PM   LACTATE-1.0
___ 06:40PM   GLUCOSE-91 UREA N-11 CREAT-0.6 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-109* TOTAL CO2-23 ANION GAP-14
___ 06:40PM   estGFR-Using this
___ 06:40PM   WBC-6.3 RBC-4.22* HGB-12.2* HCT-36.6* MCV-87 
MCH-28.9 MCHC-33.3 RDW-13.2 RDWSD-41.7
___ 06:40PM   NEUTS-62.3 ___ MONOS-8.1 EOS-2.1 
BASOS-0.5 IM ___ AbsNeut-3.95 AbsLymp-1.69 AbsMono-0.51 
AbsEos-0.13 AbsBaso-0.03
___ 06:40PM   ___ PTT-29.4 ___
___ 06:40PM   PLT COUNT-217
+++++++++++++++++++++++++
ADMISSION BRAIN MRI
Multiple enhancing intracranial lesions involving both cerebral 
cortices are highly concerning for metastatic disease. Largest 
lesions located in the left frontal and right temporal lobe 
measuring 1.5 x 1.4 and 2.1 x 1.9 cm, respectively. The lesion 
in the right temporal lobe demonstrates 
susceptibility artifact, likely reflecting prior hemorrhage. 
There is 
extensive vasogenic edema causing on the right lateral 
ventricle. In 
addition, there is mild approximately 4 mm of midline shift to 
the left. 
.
ADMISSON CXR: - Images reviewed by author
There is a relatively rounded opacity projecting over the right 
middle lobe measuring approximately 2.5 cm also seen on the 
lateral view.  Streaky opacities also noted in the infrahilar 
region on the right behind the heart, potentially in the 
retrocardiac region on the lateral view.  The lungs are 
hyperinflated but otherwise grossly clear.  Cardiomediastinal 
silhouette is within normal limits.  Anterior cervical fixation 
hardware is noted. 
  
IMPRESSION:  
A 2.5 right middle lobe nodule and irregular right infrahilar 
opacities likely within the right lower lobe.  If patient has 
symptoms for infection, follow-up could be obtained after 
treatment to document resolution however if no convincing 
evidence of infection at this time, this could represent an 
underlying primary malignancy and CT scan is suggested at this 
time on a nonurgent basis. 

CT chest ___:
 
5 lung nodules ranging from 6 mm to 2.5 cm in diameter.  Any one 
of these 
could be a primary bronchogenic carcinoma, but the number 
suggests metastases 
from an extrathoracic primary malignancy.  The large right lower 
lobe nodule 
should be accessible to transthoracic needle aspiration.  
Probable right hilar 
adenopathy due to local spread of the lower lobe lesion. 
  
Mild emphysema, diffuse small airway inflammation and probable 
respiratory 
bronchiolitis all due to tobacco use. 
  
Mild coronary atherosclerosis. 

CT abdomen/pelvis ___:
IMPRESSION: 
  
  
1. Omental fat stranding and diffuse mild mental thickening, 
without masses, 
likely represents metastatic disease. 
2. A 1.3 cm hypodensity with peripheral enhancement in segment 
II of the liver 
likely represents a hemangioma. 
3. A 2.5 cm fluid collection in the right inguinal region at the 
site of prior 
hernia repair is consistent with seroma. 
4. Please refer to separate report of CT chest performed same 
day for 
description of thoracic findings. 

+++++++++++++++++++
 d/c labs: 

___ 07:45AM BLOOD WBC-11.9* RBC-4.83 Hgb-13.7 Hct-41.2 
MCV-85 MCH-28.4 MCHC-33.3 RDW-13.4 RDWSD-41.9 Plt ___
___ 07:45AM BLOOD Glucose-109* UreaN-21* Creat-0.5 Na-137 
K-4.6 Cl-99 HCO3-26 AnGap-17
___ 07:45AM BLOOD Calcium-9.4 Phos-4.5 Mg-2.___ tobacco smoker with h/o COPD, chronic facila pain syndrome  
and s/p neck vertebral fusion surgery s/p ___ trauma who 
presented to OSH (___) with headaches, confusion and 
personality changed of 3 weeks duration and had head CT which 
demonstrated "Multiple prominent areas of parenchymal 
hypodensity involving the gray and white matter in the right 
frontoparietal right frontal, right temporal and left frontal 
regions, suggesting vasogenic edema. Superimposed subacute 
infarctions cannot be excluded. 2: There is also suggestion of 
possible hyperdense mass lesion in the right temporoparietal 
region, worrisome for neoplasm". Referred to ___ ED where he 
was afebrile and hemodynamically stable but with sinus 
bradycardia. MRI brain showed multiple enhancing intracranial 
lesions involving both cerebral cortices highly concerning for 
metastatic disease and c/b vasogenic edema and midline shift to 
the left.  Admitted to medicine where he was managed with PO 
dexamethasoneand prophylactic po levetiracetam following IV 
loads as well as home PO oxycodone and IV PRN hydromorphone for 
pain control.  Underwent CT chest which was notable for 5 lung 
nodules ranging from 6 mm to 2.5 cm in diameter any one of which 
could be a primary bronchogenic carcinoma, but the number could 
suggests metastases from an extrathoracic primary malignancy.  
CT abd/pelvis did not show obvious primary but did show omental 
fat stranding and diffuse mild omental thickening, without 
masses, but which likely represent metastatic disease. Underwent 
___ guided biopsy of right pulmonary nodule on ___ which he 
tolerated well. Cytology of brushing was negative for malignant 
cells and biopsy results are pending at discharge. Patient was 
reviewed by oncology who provided guidance about their plan for 
ongoing post d/c follow-up and their contact details. 

Problem Summary: 

- suspected Brain metastases per MRI

- right lung nodule per CT chest: likley primary lung cancer, 
biopsy pending. 

- omental stranding/thickening per CT abdomen: ? metastatic 
disease

- right inguinal seroma at site of previous inguinal hernia 
repair 

- Sinus Bradycardia: ___ intracranial process/increased ICP? no 
other signs of ___ reflex. Rate on previous ECG from ___ 
is 57

- hyperglycemia: no known history of DM. likely ___ to high-dose 
steroids. Was put on conservative ISS but did not require 
insulin doses. 

- headaches - ___ to brain lesions

- cognitive impairment - ___ brain lesions. Per OT review during 
this admission has "evident impairments in attention, memory, 
and executive
function. At this time, recommend pt d/c home w/ direct
supervision for IADLs (medication management, cooking, community
integration).". Patient was ambulating independently throughout 
admission and had no acute ___ needs. 

- mild leukocytosis: ___ high dose steroids. 

Chronic: 

- h/o TOBACCO USE: on nicotine patches during this admission. 
- chronic head aches
- HLD
  
Plan: 

Patient is stable for discharge with the following plan: 

- patient's wife to provide direct supervision for IADLs 
(medication management, cooking, community integration). 
- continue PO oxycodone 20mg Q6H:PRN home regimen + PO 
hydromorphone PRN  ___ records reviewed prior to 
discharge)
- continue  PO dexamethasone 4 mg q 6 hours  
- continue keppra 1g BID
- continue nicotine patches 
- continue ensure enlive TID and MVI with minerals 
- f/u with oncology who will follow-up on lung biopsy results 
and coordinate further care as needed including engagement of 
neuro-onc/rad-onc/neurosurgery as necessary.    
-  continue to address goals of care following with tissue 
biopsy results and as part of the big-picture prognosis 
discussion once diagnosis confirmed. Code status presumed full 
during this admission and not discussed.  
- consider outpatient cognitive neurology consult to further 
assess cognition, per oncology and PCP ___. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. Diazepam 5 mg PO Q12H:PRN neck pain 
3. Ibuprofen 800 mg PO Q6H 
4. OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - Severe 
5. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
heartburn 
RX *alum-mag hydroxide-simeth [Advanced Antacid-Antigas] 200 
mg-200 mg-20 mg/5 mL ___ ml by mouth Q6H:PRN heartburn 
Refills:*0 
2.  Dexamethasone 4 mg PO Q6H 
RX *dexamethasone 4 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*56 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*28 Capsule Refills:*0 
4.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Severe 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *hydromorphone [Dilaudid] 2 mg 1 tablet(s) by mouth Q6H:PRN 
Pain Disp #*46 Tablet Refills:*0 
5.  LevETIRAcetam 1000 mg PO Q12H 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*28 Tablet Refills:*0 
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.  Naloxone 0.4 mg Subcut ONCE Duration: 1 Dose 
RX *naloxone [Evzio] 0.4 mg/0.4 mL 1 injection ONCE:PRN opiate 
overdose Refills:*0 
8.  Nicotine Patch 21 mg TD DAILY 
RX *nicotine [Nicoderm CQ] 21 mg/24 hour apply one patch Q24h 
Disp #*14 Patch Refills:*0 
9.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl [Acid Control (ranitidine)] 150 mg 1 
tablet(s) by mouth daily Disp #*14 Tablet Refills:*0 
10.  Senna 8.6 mg PO BID:PRN constipation  
RX *sennosides [Evac-U-Gen (sennosides)] 8.6 mg 1 tab by mouth 
BID:PRN constipation Disp #*28 Tablet Refills:*0 
11.  Diazepam 5 mg PO Q12H:PRN neck pain  
12.  OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - 
Severe 
RX *oxycodone 20 mg 1 tablet(s) by mouth Q6H:PRN pain Disp #*40 
Tablet Refills:*0 
13.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q6H:PRN  
14.  Simvastatin 10 mg PO QPM  
15.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Suspected lung Ca with brain metastases 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

you were admitted to ___ due to severe headaches and 
confusion. Imaging studies of your brain and body which showed 
findings concerning for lung cancer with spread to the brain. 
You underwent a lung biopsy and the results are pending at this 
time. You will be followed up by the ___ oncology service. 

You were also reviewed by our occupational therapist due to your 
complaints about confusion and worsening of your functional 
abilities. It is recommended that after discharge your wife 
provides you with supervision for daily activities and 
medications.   

You are discharged with a prescription for oral Dilaudid which 
you may use for pain control if you require something additional 
to the oxycodone you were taking prior to this admission. Please 
note that opiate pain medications may cause drowsiness and in 
case over overdose suppression of consciousness, depressed 
respiration, coma and death. You are also prescribed a naloxone 
auto-injection to be used in case of concern for opiate 
overdose. 

 
Followup Instructions:
___